US07572805B2
Part B. (E)-Methyl 2-(3-(benzyloxy)-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate
To a suspension of hexane-washed sodium hydride (0.42 g of 60% suspension in mineral oil, 10.52 mmol) in 120 mL of THF at 0° C. was added benzyl 2-(dimethoxyphosphoryl)acetate (2.72 g, 10.52 mmol) dropwise in 10 mL of THF. The resulting mixture was stirred 5 min at 0° C. and then was allowed to warm to ambient temperature and stirred for 20 min. To this solution was added methyl 2-formyl-6-(trifluoromethyl)benzoate (2.22 g, 9.56 mmol) dropwise in 10 mL of THF. The resulting solution was stirred at ambient temperature for 1 h. The reaction mixture was quenched with 1N HCl (100 mL) and extracted with ethyl acetate. The organics were washed with sat'd aq NaHCO3 and brine, dried (MgSO4), filtered through a pad of silica gel and concentrated in vacuo to afford 3.4 g (97%) of the title compound which was sufficiently pure to be used without purification. 1H NMR (CDCl3): δ 7.79 (d, 1H, J=7.9 Hz), 7.72-7.67 (m, 2H), 7.55 (t, 1H, J=7.9 Hz), 7.38-7.30 (m, 5H), 6.47 (d, 1H, J=15.8 Hz), 5.23 (s, 2H), 3.94 (s, 3H). LRMS (ESI): 387.17 (M+H+Na)+.

reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 10.52 mmol, 0.42 g | [H-].[Na+]
reactant | benzyl 2-(dimethoxyphosphoryl)acetate | 10.52 mmol, 2.72 g | COP(=O)(OC)CC(=O)OCC1=CC=CC=C1 | C11H15O5P
reactant | methyl 2-formyl-6-(trifluoromethyl)benzoate | 9.56 mmol, 2.22 g | C(=O)C1=C(C(=O)OC)C(=CC=C1)C(F)(F)F | C10H7F3O3
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-Methyl 2-(3-(benzyloxy)-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate | 3.4 g, 97% | C(C1=CC=CC=C1)OC(/C=C/C1=C(C(=O)OC)C(=CC=C1)C(F)(F)F)=O | C19H15F3O4
